US08729271B2
1-Methyl-N-(propan-2-yl)-N-({2-[4-(trifluoromethoxy)phenyl]pyridin-4-yl}methyl)-1H-imidazole-4-carboxamide dihydrochloride
A mixture of N-[(2-bromopyridin-4-yl)methyl]-1-methyl-N-(propan-2-yl)-1H-imidazole-4-carboxamide (100 mg), 4-trifluoromethoxyphenylboronic acid (122 mg), tetrakis(triphenylphosphine)palladium (34 mg), potassium carbonate (82 mg), dimethylformamide (1.2 mL) and ethanol (0.4 mL) was stirred under irradiation with microwave while heating at 150° C. for 30 min. After diluting with chloroform, the mixture was washed with water and further extracted with chloroform. The organic phase was separated out, and the solvent was distilled off under reduced pressure. The resulting residue was diluted with ethyl acetate, and a small amount of NH silica gel was added thereto, followed by stirring. The NH silica gel was filtered off, and the solvent was then distilled off under reduced pressure. The resulting residue was purified by HPLC. The resulting residue was dissolved in acetonitrile and water, and 2N hydrochloride was added thereto, followed by lyophilization to afford the title compound (94 mg).

reactant | N-[(2-bromopyridin-4-yl)methyl]-1-methyl-N-(propan-2-yl)-1H-imidazole-4-carboxamide | 100 mg | BrC1=NC=CC(=C1)CN(C(=O)C=1N=CN(C1)C)C(C)C | C14H17BrN4O
reactant | 4-trifluoromethoxyphenylboronic acid | 122 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | potassium carbonate | 82 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis(triphenylphosphine)palladium | 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 0.4 mL | C(C)O | C2H6O
product | 1-Methyl-N-(propan-2-yl)-N-({2-[4-(trifluoromethoxy)phenyl]pyridin-4-yl}methyl)-1H-imidazole-4-carboxamide dihydrochloride | 94 mg | Cl.Cl.CN1C=NC(=C1)C(=O)N(CC1=CC(=NC=C1)C1=CC=C(C=C1)OC(F)(F)F)C(C)C | InChI=1S/C21H21F3N4O2.2ClH/c1-14(2)28(20(29)19-12-27(3)13-26-19)11-15-8-9-25-18(10-15)16-4-6-17(7-5-16)30-21(22,23)24;;/h4-10,12-14H,11H2,1-3H3;2*1H
